US04898872
3,4-Dihydro-4,8,8-trimethyl-6-[(N-2-nitrophenyl)-amino]-2-(1H)-quinolone
This compound, m.p. 205°14 211°, was prepared similarly to Preparation 20 using 3,4-dihydro-4,8,8-trimethyl-6-amino-2-(1H)-quinolone, 1-fluoro-2-nitrobenzene, and sodium carbonate as starting materials.

reactant | 3,4-dihydro-4,8,8-trimethyl-6-amino-2-(1H)-quinolone | CC1CC(NC=2C(CC(=CC12)N)(C)C)=O | C12H18N2O
reactant | 1-fluoro-2-nitrobenzene | FC1=C(C=CC=C1)[N+](=O)[O-] | C6H4FNO2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
product | 3,4-Dihydro-4,8,8-trimethyl-6-[(N-2-nitrophenyl)-amino]-2-(1H)-quinolone | CC1CC(NC=2C(CC(=CC12)NC1=C(C=CC=C1)[N+](=O)[O-])(C)C)=O | C18H21N3O3
